Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
auto
 
Major Surgical or Invasive Procedure:
R CVC placement and removal
PICC placement and removal
I & D of labia abscess

 
History of Present Illness:
___ yo woman with a MM. She was diagnosed in ___ when 
she was found to have abnl protein in her urine. Labs confirmed 
the presence of a monoclonal protein in the blood and a bone 
marrow biopsy was performed which demonstrated ___ 
involvement by a plasma cell dyscrasia. Baseline labs 
demonstrated normal Cr and Ca but significant anemia. Skeletal 
survey without lytic lesions. Patient with a significant 
increase in IgG over the month leading into treatment and then 
was started on RVD. She has now completed 4 cycles. Referred to 
Dr. ___ in ___ for auto transplant. s/p auto D+24, 
transplant course complicated with labia abscess and PICC 
associated right UE basiliac vein thrombus.
 
Past Medical History:
PMH/PSX:
- Asthma
- HTN
- TAH, tubal ligation

 
Social History:
___
Family History:
 Mother died of CRF complicated by CAD at age ___. Father died
of laryngeal cancer at ___. One sister with MM. One sister with
ovarian ___, One brother with liver CA. 10 healthy siblings

 
Physical Exam:
VS: Tmax 99.6 now 98.7 BP 138/74 HR 93 spO2 100%RA
admit weight: 205.2 current weight: 191.4 
Physical Exam:
Gen: WDWN NAD A&Ox4
HEENT: oropharynx moist no lesions
neck: supple
CV: RRR no m/r/g
LS: CTA
Abd: soft NT -HSM +BS
Extr: RUE edema, tender
Skin: L labia lateral swelling improved, wick no longer present, 
granulation and closure of I & D site
Access: none

 
Pertinent Results:
___ 06:40AM BLOOD WBC-3.4* RBC-2.83* Hgb-8.7* Hct-26.6* 
MCV-94 MCH-30.7 MCHC-32.7 RDW-15.7* Plt ___
___ 11:15AM BLOOD WBC-3.4*# RBC-2.96* Hgb-9.2* Hct-28.7* 
MCV-97 MCH-31.1 MCHC-32.0 RDW-14.6 Plt ___
___ 06:40AM BLOOD Neuts-56 Bands-1 Lymphs-14* Monos-29* 
Eos-0 Baso-0 ___ Myelos-0
___ 11:15AM BLOOD Neuts-65 Bands-2 ___ Monos-11 Eos-0 
Baso-0 ___ Metas-1* Myelos-0
___ 06:40AM BLOOD Hypochr-1+ Anisocy-NORMAL Poiklo-NORMAL 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL
___ 11:15AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-NORMAL 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 06:40AM BLOOD Plt Smr-NORMAL Plt ___
___ 11:15AM BLOOD ___ PTT-30.0 ___
___ 06:40AM BLOOD Glucose-123* UreaN-8 Creat-0.7 Na-142 
K-4.0 Cl-106 HCO3-26 AnGap-14
___ 11:15AM BLOOD UreaN-12 Creat-0.7 Na-138 K-3.7 Cl-100 
HCO3-33* AnGap-9
___ 06:40AM BLOOD ALT-10 AST-16 LD(LDH)-253* AlkPhos-38 
TotBili-0.3
___ 11:15AM BLOOD ALT-11 AST-16 LD(LDH)-223 AlkPhos-57 
TotBili-0.2 DirBili-0.1 IndBili-0.1
___ 06:40AM BLOOD Albumin-3.6 Calcium-9.5 Phos-2.8 Mg-1.9
___ 11:15AM BLOOD TotProt-7.0 Albumin-4.3 Globuln-2.7 
Calcium-9.1 Phos-2.6* Mg-2.1 UricAcd-7.4*
 
Brief Hospital Course:
___ year old female with IgG kappa myeloma presents for
high dose melphalan with stem cell rescue. D0 ___.

#Myeloma: D+24. Received 4.895x10^6 CD34+/kg cells in 1 bag on
___. d/c home, f/u with Dr. ___ and f/u with 
gyn next week as well.

# R UE DVT: U/s shows clot of basilic and brachial (phone read)
remove PICC line. lovenox 1.5mg/kg daily change all meds to PO 
as
below. Lovenox once daily secondary to needle phobia, as source 
was PICC and this was removed okay with 1.5mg/kg daily dosing x 
2 months. Visting nurse to come and teach patient and family how 
to administer injection daily.

# labial cellulitis evolved into abscess: 
-no more IV access: ID rec levaquin/flagyl po x 9 more days. 
- I&D ___, cultures pending, PMN's so far, no bug.
-GYN and ID following.
-now afebrile
-hot moist ___ baths

#Neuropathy: Stable. The patient has stable neuropathy ___ b/l 
@hs.
To continue gaba and oxycodone. d/c PCA ___. Off amitryptiline
as concern that this medication was interacting with others and
causing tremor. Added BID low dose MSContin on ___, no 
relief
d/c ___.

#pancytopenias ___ chemotherapy: resolved. pRBC x1 on ___ on
___. Completed g-csf ___, received a total of 9 doses. ANC
now stable at 3380 today. ANC engraftment ___. Plt improving
on own into the 200's.

# tachycardia: Resolved. likely ___ infection. echocardiogram
prelim interp reassuring. on Bb.

# febrile neutropenia--resolved. See above.  Line out ___.

# mucositis likely grade 2:  Resolved.

#Nausea. controlled with prn ativan. improved appetite, no 
recent
emesis, changed zyprexa to prn and will monitor.

#Diarrhea. Resolved. C diff neg on ___, recheck C diff and 
stool studies
___, neg.

#HTN. No acute issue will monitor outpatient and consider 
restart regimen if required.

#Intention Tremor. Resolved. Developed ___, was worse in
fingertips b/l. Thought to be secondary to dex and/or antinausea
meds and/or amitryptiline. Will continue to hold amitryptiline
for the time being. If continues, will consult neurology for
further recs.

# elevated LDH- monitor, likely ___ increased cell turnover with
recovery. 

# Infectious prophylaxis:
- PCP: ___
- HSV/VZV: acyclovir D-2
- Bacterial: see empiric abx
- fungal: see above

# Access: R CVC out, culture tip negative.

# FEN: low bacteria diet

# Code status: full

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO QAM 
2. Gabapentin 300 mg PO NOON 
3. Gabapentin 600 mg PO HS 
4. Amitriptyline 25 mg PO HS 
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
6. Propranolol LA 60 mg PO DAILY 

 
Discharge Medications:
1. Gabapentin 600 mg PO TID 
RX *gabapentin 600 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0
2. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 6 hours prn Disp 
#*120 Tablet Refills:*0
3. Acyclovir 400 mg PO Q8H 
RX *acyclovir 400 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Capsule Refills:*3
4. Enoxaparin Sodium 120 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 120 mg/0.8 mL 1 injection subcutaneous daily Disp 
#*30 Syringe Refills:*2
5. Levofloxacin 750 mg PO Q24H 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*10 
Tablet Refills:*0
6. Lorazepam 0.5-1 mg PO Q6H:PRN anxiety,nausea or vomiting if 
not relieved by ondansetron 
RX *lorazepam 0.5 mg ___ tabs by mouth every 6 hours prn Disp 
#*120 Tablet Refills:*0
7. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*30 Tablet Refills:*0
8. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet,delayed release (___) by 
mouth daily Disp #*30 Tablet Refills:*0
9. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*2

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
myeloma
labia abscess
right UE basilic thrombus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted for approximately one month to receive an 
autologous stem cell transplant and had a prolonged stay 
secondary to a labia abscess and right upper extremity blood 
clot due to your PICC line. Your labia abscess is healing and 
you will remain on levaquin/flagyl for a remaining 10 days. Your 
blood clot swelling has diminished and you will continue lovenox 
once daily at home. Please do not hesitate to call in the interm 
with any questions or concerns. It was a pleasure taking care of 
you.
 
Followup Instructions:
___